* TG_1K_1V8 -- CMOS transmission gate, 1.8 V domain, ~1 kohm on-resistance
* AutoHV BiCMOS 180 PDK | NMOS1V8/PMOS1V8, L = 0.18 um, Wp/Wn = 2.5
*
* Bodies are tied to the rails: NMOS body to gnd, PMOS body to vdd.
* This is the shipping default.  Body effect is present and is already
* included in every number in ../REPORT.md.
*
* Port order:  a b en vdd gnd
*   .include "<repo-root>/autohv_bicmos180_case.lib"
*   .include "<this-dir>/TG_1K_1V8.lib"
*   X1 sig1 sig2 enable vdd 0 TG_1K_1V8
*
* Typical Ron 1 kohm at TT / 1.8 V / 27 C, worst case over the input
* level.  PVT envelope and the guaranteed input window: ../REPORT.md.

.subckt TG_1K_1V8 a b en vdd gnd
* control inverter: enb = !en  (bodies always on the rails)
XINVP enb en vdd vdd PMOS1V8 W=1u M=1 L=0.18u
XINVN enb en gnd gnd NMOS1V8 W=0.4u M=1 L=0.18u
* pass pair
XN b en  a gnd NMOS1V8 W=4u M=1 L=0.18u
XP b enb a vdd PMOS1V8 W=10u M=1 L=0.18u
.ends TG_1K_1V8
